US04581150
A 2 liter round bottom flask was equipped with an overhead stirrer, thermometer, condenser and addition funnel with N2Inlet. 216 g of 2-chloroethanol and 550 cc of dry chloroform were charged to the flask and chilled to -30° C. Chlorosulfonic acid was added dropwise in one hour, and the reaction was allowed to warm to room temperature and stir for 11/2 hours. With the reaction solution again at -30° C., cold methanol was added dropwise followed by 300 g of 50% NaOH solution. The reaction was heated to reflux and filtered hot. The filtrate crystallized upon standing yielding white crystals, which were filtered and washed with cold methanol to yield sodium 2-chloroethane sulfate.

reactant | 2-chloroethanol | 216 g | ClCCO | C2H5ClO
reactant | chloroform | 550 cc | C(Cl)(Cl)Cl | CHCl3
reactant | Chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | NaOH | 300 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | sodium 2-chloroethane sulfate | S(=O)(=O)([O-])[O-].ClCC.[Na+].[Na+] | InChI=1S/C2H5Cl.2Na.H2O4S/c1-2-3;;;1-5(2,3)4/h2H2,1H3;;;(H2,1,2,3,4)/q;2*+1;/p-2
